US08614226B2
A solution of 5.00 g (13.3 mmol) 4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester in a 4 N solution of hydrochloric acid in dioxane was stirred at room temperature for 16 hours. The precipitate that has formed was filtered off and the filtrate was evaporated to dryness. This residue was dissolved in 20 ml DMF and 2.6 ml (18.5 mmol) triethylamine and 0.6 ml (9.7 mmol) iodomethane were added. The reaction mixture was stirred for 16 hours at room temperature. The precipitate that had formed was filtered off and the filtrate was evaporated in vacuo. The residue was partitioned between water and dichloromethane. The organic phase was dried over sodium sulphate and evaporated. The residue was chromatographed on a silica gel column with toluene/ethylacetate as eluent yielding 1-methyl-4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-piperidine as colourless crystals; HPLC-MS: 1.29 min, [M+H] 292.

reactant | 4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester | 13.3 mmol, 5.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C19H32BN3O4
reactant | hydrochloric acid | Cl | ClH
reactant | triethylamine | 18.5 mmol, 2.6 ml | C(C)N(CC)CC | C6H15N
reactant | iodomethane | 9.7 mmol, 0.6 ml | IC | CH3I
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-methyl-4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-piperidine | CN1CCC(CC1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C15H26BN3O2
